US06274584B1
(2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid (7.41 g, 22.5 mmol) was dissolved in N,N-dimethylformamide (90 ml) and dichloromethane (110 ml). 1-Hydroxy-7-azabenzotriazole (3.06 g, 22.5 mmol) was added. The mixture was cooled to 0° C. N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (4.32 g, 22.5 mmol) was added. The solution was stirred for 15 min at 0° C. 1,2,3,4-Tetrahydroqunoline (3.00 g, 22.5 mmol) and ethyldiisopropylamine (3.90 m., 22.5 mmol) were added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (80 ml) and extracted with 10% aquoeous sodium hydrogen sulfate solution (250 ml). The aqueous phase was extracted with ethyl acetate (3×60 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (200 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (130 g), using ethyl acetateiheptane 1:2. as eluent to give 6.12 g of N-((l R)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-1-((2-naphthyl)methyl)-2-oxoethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | 22.5 mmol, 7.41 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 22.5 mmol, 3.06 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 22.5 mmol, 4.32 g | Cl.CN(CCCN=C=NCC)C
reactant | ethyldiisopropylamine | 22.5 mmol | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | N-((l R)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-1-((2-naphthyl)methyl)-2-oxoethyl)-N-methylcarbamic acid tert-butyl ester | 6.12 g | C(C)(C)(C)OC(N(C)[C@@H](C(=O)N1CC2=CC=CC=C2CC1)CC1=CC2=CC=CC=C2C=C1)=O | C28H32N2O3
